US07368578B2
A mixture of methyl 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylate (3.36 g), 4-(4-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole (5.30 g), potassium carbonate (4.25 g) and N,N-dimethylformamide (50 mL) was stirred at 80° C. for 5 hrs. The reaction mixture was poured into dilute hydrochloric acid, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The obtained colorless crystals were collected by filtration to give methyl 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carboxylate (7.53 g, yield 93%). The crystals were recrystallized from acetone-isopropyl ether. melting point: 143-144° C.

reactant | methyl 3-hydroxy-1-phenyl-1H-pyrazole-5-carboxylate | 3.36 g | OC1=NN(C(=C1)C(=O)OC)C1=CC=CC=C1 | C11H10N2O3
reactant | 4-(4-chloromethyl-2-methoxyphenoxymethyl)-5-methyl-2-phenyl-1,3-oxazole | 5.30 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=CC=C2)C=C1)OC | C19H18ClNO3
reactant | potassium carbonate | 4.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | methyl 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carboxylate | 7.53 g, yield 93% | COC=1C=C(COC2=NN(C(=C2)C(=O)OC)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C30H27N3O6
